US07279478B2
(2S)-N-(cyanomethyl)-4-methyl-2-({(R)-phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}oxy)pentanamide (100 mg, 0.216 mmol), 4-(4-bromophenyl)pyridine (56 mg, 0.238 mmol) and 2M K2CO3 (324 ul, 0.648 mmol) were dissolved in 1.6 ml DMF and the solution was degassed 3 times. PdCl2(dppf) (4.8 mg, 0.03 mmol) was added and the mixture was stirred overnight at 80° C. The solution was cooled, poured into 8 ml NaHCO3 (sat.) and extracted 3 times with 2 ml ethyl acetate. The combined organic layers were then washed with 4× water, then dried with Na2SO4. (2S)-N-(cyanomethyl)-4-methyl-2-{[(R)-phenyl(4′-pyridin-4-yl-1,1′-biphenyl-4-yl)methyl]oxy}pentanamide was obtained after purification on silica gel (2% MeOH/38% ethyl acetate/60% hexanes).

reactant | (2S)-N-(cyanomethyl)-4-methyl-2-({(R)-phenyl[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}oxy)pentanamide | 0.216 mmol, 100 mg | C(#N)CNC([C@H](CC(C)C)O[C@@H](C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)=O | C27H35BN2O4
reactant | 4-(4-bromophenyl)pyridine | 0.238 mmol, 56 mg | BrC1=CC=C(C=C1)C1=CC=NC=C1 | C11H8BrN
reactant | K2CO3 | 0.648 mmol, 2M, 324 ul | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | 8 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 1.6 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.03 mmol, 4.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2S)-N-(cyanomethyl)-4-methyl-2-{[(R)-phenyl(4′-pyridin-4-yl-1,1′-biphenyl-4-yl)methyl]oxy}pentanamide | C(#N)CNC([C@H](CC(C)C)O[C@@H](C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=NC=C1)C1=CC=CC=C1)=O | C32H31N3O2
